US08808702B2
Synthesis of (E)-1-(4-iodophenyl)-2-(4-iodobenzylsulfonyl)-3-(4-iodophenyl)-prop-2-en-1-one
The title compound is prepared by the methods described in Synthesis Example 10. A solution of 1-(4-iodophenyl)-2-(4-iodobenzylsulfonyl)ethanone (10 mmol) and 4-iodobenzaldehyde (10 mmol) was subjected to the procedure described as Method A in part C of Synthesis Example 10 and the product obtained was purified by column chromatography.

reactant | 1-(4-iodophenyl)-2-(4-iodobenzylsulfonyl)ethanone | 10 mmol | IC1=CC=C(C=C1)C(CS(=O)(=O)CC1=CC=C(C=C1)I)=O | C15H12I2O3S
reactant | 4-iodobenzaldehyde | 10 mmol | IC1=CC=C(C=O)C=C1 | C7H5IO
product | (E)-1-(4-iodophenyl)-2-(4-iodobenzylsulfonyl)-3-(4-iodophenyl)-prop-2-en-1-one | IC1=CC=C(C=C1)C(/C(=C\C1=CC=C(C=C1)I)/S(=O)(=O)CC1=CC=C(C=C1)I)=O | C22H15I3O3S
